US05194617
1.32 ml of a hexane solution of 2.16 mmols of n-butyl lithium was added to a solution of 238 mg (2.16 mmols) of 1-octyne and 5 ml of tetrahydrofuran in an atmosphere of nitrogen at 0° C. and stirred at the same temperature for 15 minutes. The reaction solution was cooled to -78° C. to which a solution of 10 ml of tetrahydrofuran of 445 mg (1.80 mmols) of 2-formyl-3-methyl-4-acetoxy-6-fluoroquinoline was added, followed by heating gradually to room temperature and stirring at room temperature for 1 hour. The reaction solution was poured into 50 ml of water, extracted with ethyl acetate and dried with sodium sulfate. The solvent was distilled off under reduced pressure and the resultant residue was purified by silica gel column chromatography (Wako gel C-200) (solvent: n-hexane ethyl acetate=5:1) to obtain 349 mg (yield 54 %) of 2-(1-hydroxy-2-nonynyl)-3-methyl-4-actoxy- 6-fluoroquinoline.

reactant | hexane | 1.32 ml | CCCCCC | C6H14
reactant | n-butyl lithium | 2.16 mmols | C(CCC)[Li]
reactant | 1-octyne | 2.16 mmols, 238 mg | C#CCCCCCC | C8H14
reactant | 2-formyl-3-methyl-4-acetoxy-6-fluoroquinoline | 1.80 mmols, 445 mg | C(=O)C1=NC2=CC=C(C=C2C(=C1C)OC(C)=O)F | C13H10FNO3
solvent | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-(1-hydroxy-2-nonynyl)-3-methyl-4-actoxy- 6-fluoroquinoline | 349 mg, yield 54 % | OC(C#CCCCCCC)C1=NC2=CC=C(C=C2C(=C1C)OC(C)=O)F | C21H24FNO3
